US09278978B2
N-(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-yl)-2-(ethylamino)butanamide
A mixture of 4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-amine (30 mg, 74 μmol), toluene (200 μl) and DIPEA (57 μl, 333 μmol) is cooled to 0° C. 2-Bromobutanoyl bromide (29 μl, 0.24 mmol) in toluene (200 μl) is added dropwise. The mixture is warmed to 50° C. and stirring is continued for 16 h. Cooled to RT 2-bromobutanoyl bromide (29 μl, 0.24 mmol) in toluene (200 μl) is added dropwise. The mixture is stirred at 60° C. for 16 h before it is again cooled to RT. Ethanamine (aqueous solution 70 wt.-%, 1 ml) is added and the mixture stirred for 16 h at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 3 mg (8%). HPLC-MS: M+H=519; tR=1.37 min (METHOD—1).

reactant | 4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-amine | 74 μmol, 30 mg | CN1N=C(C=2N=CN=C(C21)C2=CC(=NC(=C2)C#CC=2C=C1C=CN=C(C1=CC2)C)N)C | C24H19N7
reactant | DIPEA | 333 μmol, 57 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Bromobutanoyl bromide | 0.24 mmol, 29 μl | BrC(C(=O)Br)CC | C4H6Br2O
reactant | 2-bromobutanoyl bromide | 0.24 mmol, 29 μl | BrC(C(=O)Br)CC | C4H6Br2O
reactant | Ethanamine | 1 ml | C(C)N | C2H7N
solvent | toluene | 200 μl | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 μl | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 μl | C1(=CC=CC=C1)C | C7H8
product | N-(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-yl)-2-(ethylamino)butanamide | CN1N=C(C=2N=CN=C(C21)C2=CC(=NC(=C2)C#CC=2C=C1C=CN=C(C1=CC2)C)NC(C(CC)NCC)=O)C | C30H30N8O
